US08304577B2
To a stirred solution of (2S)-N-((1R)-2-amino-1-(4-(2-methylpentyloxy)phenyl)ethyl)-2-phenylpropanamide (50 mg, 0.136 mmol), prepared according to the procedure described in example 5, in acetonitrile (3 mL), was added cyclopropanecarboxaldehyde (10.23 μL, 0.136 mmol) and stirring was continued for 15 min. To this mixture, sodium triacetoxyborohydride (57.5 mg, 0.271 mmol) was added and the reaction mixture was stirred at room temperature for 1 h. The reaction mixture was transferred to a separatory funnel containing saturated aqueous NaHCO3 solution (10 mL). The aqueous layer was extracted with ethyl acetate (2×20 mL). The combined organic layers washed with brine, dried over MgSO4, filtered and concentrated. The residue was purified by reverse phase HPLC (acetonitrile/water with 0.1% TFA). The organic solvent was removed on the rotovapor and the aqueous mixture was frozen and placed on the lyophilizer. The product was transferred to a separatory funnel containing saturated aqueous NaHCO3 solution (10 mL). The aqueous layer was extracted with ethyl acetate (2×20 mL). The combined organic layers were dried over MgSO4, filtered and concentrated to afford (2S)-N-((1R)-2-(cyclopropylmethylamino)-1-(4-(2-methylpentyloxy)phenyl)ethyl)-2-phenylpropanamide (25 mg, 43.6% yield) as a colorless oil: 1H NMR (400 MHz, CDCl3) δ 7.20-7.36 (m, 5H), 6.92 (d, J=8.6 Hz, 2H), 6.73 (d, J=8.6 Hz, 2H), 6.50 (d, J=6.8 Hz, 1H), 4.99 (q, J=6.3 Hz, 1H), 3.74 (dd, J=8.8, 5.8 Hz, 1H), 3.59-3.68 (m, 2H), 2.95 (dd, J=12.2, 6.4 Hz, 1H), 2.82 (dd, J=12.2, 4.9 Hz, 1H), 2.33-2.47 (m, 2H), 2.08-2.31 (m, 1H), 1.83-1.95 (m, 1H), 1.49 (d, J=7.1 Hz, 3H), 1.26-1.48 (m, 3H), 1.13-1.25 (m, 1H), 0.97 (d, J=6.8 Hz, 3H), 0.90 (t, J=7.1 Hz, 3H), 0.75-0.84 (m, 1H), 0.37-0.46 (m, 2H), −0.02-0.08 (m, 2H); LRMS (ESI) m/e 423.4 [(M+H)+, calcd for C27H39N2O2 423.3].

reactant | (2S)-N-((1R)-2-amino-1-(4-(2-methylpentyloxy)phenyl)ethyl)-2-phenylpropanamide | 0.136 mmol, 50 mg | NC[C@@H](C1=CC=C(C=C1)OCC(CCC)C)NC([C@@H](C)C1=CC=CC=C1)=O | C23H32N2O2
reactant | cyclopropanecarboxaldehyde | 0.136 mmol, 10.23 μL | C1(CC1)C=O | C4H6O
reactant | sodium triacetoxyborohydride | 0.271 mmol, 57.5 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | (2S)-N-((1R)-2-(cyclopropylmethylamino)-1-(4-(2-methylpentyloxy)phenyl)ethyl)-2-phenylpropanamide | 25 mg, 43.6% yield | C1(CC1)CNC[C@@H](C1=CC=C(C=C1)OCC(CCC)C)NC([C@@H](C)C1=CC=CC=C1)=O | C27H38N2O2
